US06586369B1
b) 3-(4-Chlorophenyl)furan-2,5-dione
With stirring, 80 ml of concentrated sulfuric acid were added dropwise to 138 g (0.57 mol) potassium 3-(4-chlorophenyl)-3-cyanoacrylate in 1.2 l of 88% strength formic acid. During the addition, the temperature increased to 50° C. The mixture was refluxed for 3 h and, after cooling, put into 10 l of ice-water and then stirred for 1 h, and the product was filtered off, washed with water and dried under reduced pressure. Yield: 86.0 g of m.p. 144-145° C.

reactant | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium 3-(4-chlorophenyl)-3-cyanoacrylate | 0.57 mol, 138 g | ClC1=CC=C(C=C1)C(=CC(=O)[O-])C#N.[K+]
solvent | formic acid | C(=O)O | CH2O2
product | 3-(4-Chlorophenyl)furan-2,5-dione | ClC1=CC=C(C=C1)C=1C(OC(C1)=O)=O | C10H5ClO3
